US04006159
Preparation of 1(and 2 and 4)-Adamantylcarbonyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 2 g. of 1,2,4-triazole-3-carboxamide and 5.4 g. of adamantylcarbonyl chloride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 23.5 hours. The mixture is filtered and the solid is washed successively with diethyl ether, cold water, diethyl ether and dried in vacuo for 3 hours yielding 4.5 g. of colorless solid. This solid is extracted with hot dry acetonitrile, cooled and washed with acetonitrile yielding 0.4 g. of colorless crystals. The remaining 3.5 g. of acetonitrile insoluble solid is further extracted with acetonitrile, yielding an additional 0.6 g. of product, m.p. 213°-216° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Adamantylcarbonyl-s-triazole-3-carboxamide | C12(CC3CC(CC(C1)C3)C2)C(=O)C2=NC(=NN2)C(=O)N | C14H18N4O2
